US08664220B2
Step 1: 2-Bromo-6-cyclobutoxy-pyridine
Cyclobutanol (0.470 mL, 6 mmol) was dissolved in toluene (2 mL) and sodium hydride (60% in mineral oil, 0.240 g, 6 mmol) was added. The reaction was stirred at room temperature for 10 minutes then 2,6-dibromo-pyridine (0.710 g, 3 mmol) was added. The reaction was heated to 110° C. for 16 hours then cooled to room temperature, filtered through Celite, and purified on silica gel (0-5% EtOAc in hexanes) to give the title compound.

reactant | Cyclobutanol | 6 mmol, 0.470 mL | C1(CCC1)O | C4H8O
reactant | sodium hydride | 6 mmol, 0.240 g | [H-].[Na+]
reactant | 2,6-dibromo-pyridine | 3 mmol, 0.710 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Bromo-6-cyclobutoxy-pyridine | BrC1=NC(=CC=C1)OC1CCC1 | C9H10BrNO
